US07253196B2
2-(Cyclooctylamino)-5,5-dimethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from ethyl-2-bromo-2-methylpropanoate and N-cyclooctylthiourea according to Method C1.

reactant | ethyl-2-bromo-2-methylpropanoate | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | N-cyclooctylthiourea | C1(CCCCCCC1)NC(=S)N | C9H18N2S
product | 2-(Cyclooctylamino)-5,5-dimethyl-1,3-thiazol-4(5H)-one | C1(CCCCCCC1)NC=1SC(C(N1)=O)(C)C | C13H22N2OS
